data/rdb19/train.csv
rxn,smiles,ea
3633,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18]([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],69.72567337495275
3247,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[O:25][C:26](=[O:27])[C:28]([H:34])([H:35])[H:36])([H:32])[H:33])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:15])([H:16])([H:17])[C:23]([C:22]([C:21]([H:29])([H:30])[H:31])([H:32])[H:33])([H:24])[O:25][C:26](=[O:27])[C:28]([H:34])([H:35])[H:36],53.002080664853565
3752,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([N:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[H:33])[C:22](=[O:23])[H:34],103.63358304434225
2313,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:8]([H:15])([H:16])[H:17].[O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22],69.47729700012133
5180,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8][c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[H:22][C:27]([C:26]([C:25]([H:33])([H:34])[H:35])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:28])[H:29],25.44200216559693
1667,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:18]([H:31])([H:32])[H:33].[C:1]([C:2]([C:3]([H:4])([H:5])[C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],66.48347164614825
2037,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2]1([C:4](=[C:5]([H:9])[H:10])[H:8])[O:3][C:13]1([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:6])[H:7],78.96418197988532
657,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:19][H:20]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[O:19][H:20])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[N:7]([H:17])[H:18],74.48273706799955
1479,[C:10]([C:11]([C:12]([H:13])[O:14][C:15]([H:21])([H:22])[H:23])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[O:14][C:15]([H:21])([H:22])[H:23])[H:19])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:20])[H:6],31.463878043112345
5365,[C:17]([C:18]([C:19]([H:20])[H:21])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:26])([H:27])[H:28].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1[C:4]([H:12])([C:19]([C:18]([C:17]([H:26])([H:27])[H:28])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:20])[H:21])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],16.811402212944813
3855,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],18.3520408992772
